US06416733B1
TPPTS:
TPPDS: Bis(3-sulfonatophenyl)phenylphosphine, disodium salt

reactant | Bis(3-sulfonatophenyl)phenylphosphine | S(=O)(=O)([O-])C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC(=CC=C1)S(=O)(=O)[O-]
reactant | disodium | [Na][Na] | 2Na
product | TPPTS | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+] | InChI=1S/C18H15O9PS3.3Na/c19-29(20,21)16-7-1-4-13(10-16)28(14-5-2-8-17(11-14)30(22,23)24)15-6-3-9-18(12-15)31(25,26)27;;;/h1-12H,(H,19,20,21)(H,22,23,24)(H,25,26,27);;;/q;3*+1/p-3
